US04216148
7-Chloro-4-methyl-9-(4-methyl-1-piperazinyl)-4H-thieno[ 3,4-b][1,4]benzodiazepine fumarate
A mixture of 1.8 g. of 7-chloro-9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4]benzodiazepine in 20 ml. of 95-97% formic acid is stirred and cooled. A 2 g. portion of sodium borohydride pellets is added over 30 minutes. The mixture is stirred for several hours with the incremental addition of more sodium borohydride until thin layer chromatography shows that no more starting material remains. The mixture is cooled, water is added and the mixture is made alkaline with ammonium hydroxide. The mixture is extracted with dichloromethane, the extracts are dried over magnesium sulfate and evaporated. The residue is dissolved in dichloromethane and filtered through magnesium silicate giving a glass. This glass is dissolved in 20 ml. of ethanol and a solution of 0.34 g. of fumaric acid in 4 ml. of ethanol is added. The solid is recrystallized from ethanol, giving the desired product, m.p. 222°-224° C. (dec.).

reactant | 7-chloro-9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NC=3C(N2)=CSC3)N3CCN(CC3)C)C1 | C16H17ClN4S
reactant | formic acid | C(=O)O | CH2O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | water | O | H2O
product | 7-Chloro-4-methyl-9-(4-methyl-1-piperazinyl)-4H-thieno[ 3,4-b][1,4]benzodiazepine fumarate | C(\C=C\C(=O)O)(=O)O.ClC=1C=CC2=C(C(=NC=3C(N2C)=CSC3)N3CCN(CC3)C)C1 | InChI=1S/C17H19ClN4S.C4H4O4/c1-20-5-7-22(8-6-20)17-13-9-12(18)3-4-15(13)21(2)16-11-23-10-14(16)19-17;5-3(6)1-2-4(7)8/h3-4,9-11H,5-8H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
